US04684639
2-Chloro-4,5-dihydroxymandelic acid
Sulphuryl chloride (0.8 ml) was added to a solution of 3,4-dihydroxymandelic acid (1.84 g, 10 mmol) in warm acetic acid (20 ml). The mixture was stirred for two hours then poured into water and extracted with ethyl acetate (6×40 ml). The extracts were washed with saturated brine (50 ml), dried and evaporated to a crystalline mass (2.36 g) which was recrystallised from ethyl acetate-cyclohexane, 0.97 g, 44%, mp 177°, δ[(CD3)2SO] 5.15(1H, s, CH), 6.71 and 6.85(2H, 2×s, Ar), 8.4-9.8(3H, m, 2×OH, CO2H).

reactant | Sulphuryl chloride | 0.8 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3,4-dihydroxymandelic acid | 10 mmol, 1.84 g | OC=1C=C(C(C(=O)O)O)C=CC1O | C8H8O5
reactant | water | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-4,5-dihydroxymandelic acid | ClC1=C(C(C(=O)O)O)C=C(C(=C1)O)O | C8H7ClO5
